US06451816B1
N-{4-[1-(2-Naphthylsulfonyl)-piperidin-4-yl]-butyl}-3-(pyridin-3-yl)-propionamide (Substance 337)
3.5 g (12 mmol) N-(4-piperidin-4-yl-butyl)-3-(pyridin-3-yl)-propionamide and 6.7 g (48.1 mmol) TEA are present in 100 ml abs. dichloromethane and cooled to ca. 0° C. under moisture exclusion. 3.0 g (13.2 mmol) naphthaline-2-sulfonic acid chloride are dissolved in 40 ml abs dichloromethane and added dropwise. The mixture is stirred without further cooling at RT overnight. Subsequently, the batch is washed twice, each with 80 ml water. The organic phase is dried over sodium sulfate and the solvent is removed under vacuum. The residue is chromatographically purified over silica gel with CHCl3/CH3OH (97/3) and crystallized from acetic acid ethyl ester after drawing off the solvent. Colorless crystals with a MP of 103-105° C. were recovered; yield: 2.87 g (50%).

reactant | N-(4-piperidin-4-yl-butyl)-3-(pyridin-3-yl)-propionamide | 12 mmol, 3.5 g | N1CCC(CC1)CCCCNC(CCC=1C=NC=CC1)=O | C17H27N3O
reactant | naphthaline-2-sulfonic acid chloride | 13.2 mmol, 3.0 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-{4-[1-(2-Naphthylsulfonyl)-piperidin-4-yl]-butyl}-3-(pyridin-3-yl)-propionamide | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CCC(CC1)CCCCNC(CCC=1C=NC=CC1)=O | C27H33N3O3S
